US07956140B2
Synthesis of the Ligand N,N-diisopropylbenzamidine
A solution of MeMgBr in ether (50.0 mL, 3.0 M, 0.15 mol) was added to a solution of diisopropylamine (16.17 g, 0.16 mol) in toluene (250 mL) at 50° C. The mixture was stirred for 1.5 h and a white precipitate formed. Next, the mixture was cooled to 0° C. and benzonitrile (15.4 g, 0.15 mol) was added. The mixture was allowed to warm to room temperature and stirred for 16 h subsequently. The conversion, determined by GC, appeared to be 90%. The mixture was quenched with water (100 mL). The organic phase was separated from the aqueous phase and the latter was extracted with diethylether (50 mL) twice. The combined organic phases were dried over Na2SO4, filtered and the solvents were removed under reduced pressure. The crude product was distilled at 145° C. at reduced pressure (0.52 mbar) resulting in 15.3 g (50%) of pure product. The ligand was characterized by 1H NMR (300 MHz) (CDCl3) δ (ppm): 7.2 (m, 5H), 5.7 (bs, 1H), 3.5 (p, 2H), 1.2 (d, 12H) and by 13C-NMR (75.5 MHz) (CDCl3) δ (ppm) 168.4, 141.8, 128.8, 128.5, 126.2, 48.6, 21.2.

reactant | MeMgBr | C[Mg+].[Br-]
reactant | ether | 0.15 mol, 3.0 M, 50.0 mL | CCOCC | C4H10O
reactant | diisopropylamine | 0.16 mol, 16.17 g | C(C)(C)NC(C)C | C6H15N
reactant | benzonitrile | 0.15 mol, 15.4 g | C(C1=CC=CC=C1)#N | C7H5N
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | N,N-diisopropylbenzamidine | 15.3 g, 50% | C(C)(C)N(C(C1=CC=CC=C1)=N)C(C)C | C13H20N2
